US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid 5-methyl-2-oxo-[1,3]-dioxol-4-ylmethyl Ester
EDC (127 mg, 660 μmol) and HOBt (89 mg, 660 μmol) were added to a solution of 5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid (150 mg, 330 μmol) and (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester (68 mg, 330 μmol) in DMF (10 mL). DIPEA (86 mg, 660 μmol) was added, and the resulting mixture was stirred for 5 hours at room temperature. The mixture was then washed with saturated aqueous NaCl (2×30 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=1:1) to yield the title compound as a white solid (67 mg). LC-MS: 638.2 [M+H]+. 1H-NMR (400 MHz, DMSO-d6): δ 2.13 (s, 3H), 3.31-3.16 (m, 2H), 4.18-4.21 (q, 2H), 4.35 (br, 1H), 4.98-5.01 (m, 2H), 5.54 (br, 1H), 7.26-7.90 (m, 12H), 9.98 (s, 1H), 12.74 (s, 1H).

reactant | EDC | 660 μmol, 127 mg
reactant | HOBt | 660 μmol, 89 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid | 330 μmol, 150 mg | O=C1NC(=NN1C1=CC=CC=C1)C(=O)O | C9H7N3O3
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester | 330 μmol, 68 mg | CC1=C(OC(O1)=O)COC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C21H20ClFN2O6
reactant | DIPEA | 660 μmol, 86 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid 5-methyl-2-oxo-[1,3]-dioxol-4-ylmethyl Ester | 67 mg | CC1=C(OC(O1)=O)COC([C@@H](CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C30H25ClFN5O8
